US05238939
A mixture of 53 g of 1-[(3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)methyl]-4-(phenylmethyl)piperazine, 150 ml of methanol, 150 ml of water and 5 g of 5% Pd on activated charcoal was acidified with 36% hydrochloric acid and hydrogenated at 50 psi until absorption of hydrogen was finished. The catalyst was filtered and the solvent evaporated, after which the residue was basified with sodium hydroxide and extracted with dichloromethane. The dichloromethane phase was washed, dried and evaporated and the product precipitated under diisopropyl ether to obtain 1-[(3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)methyl]piperazine.

reactant | 1-[(3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)methyl]-4-(phenylmethyl)piperazine | 53 g | COC=1C(=CC2=C(CCOC2CN2CCN(CC2)CC2=CC=CC=C2)C1)OC | C23H30N2O3
reactant | methanol | 150 ml | CO | CH4O
catalyst | Pd on activated charcoal | 5 g | [Pd] | Pd
solvent | water | 150 ml | O | H2O
product | 1-[(3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)methyl]piperazine | COC=1C(=CC2=C(CCOC2CN2CCNCC2)C1)OC | C16H24N2O3
